US05719139
To a solution of 4-nitrobenzyl (7R,8S)-8-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]-5,9-dioxo-1-azabicyclo[5.2.0]non-2-ene-2-carboxylate (1.5 g, 3.07 mmol) in acetonitrile (15 ml) was added at 0° C. N,N-diisopropylethylamine (1.1 ml, 6.45 mmol). The reaction mixture was cooled at -40° C. and trifluoromethanesulfonic anhydride (0.57 ml; 3.38 mmol) was added. After 5 minutes, further N,N-diisopropylethylamine (1.1 ml, 6.45 mmol) was added to the reaction mixture. Methylmercaptan was then bubbled through the solution at -40° C. during a few seconds. The mixture was allowed to warm to ambient temperature over 1.5 hours. The solvent was evaporated and the residue purified by chromatography on silica gel eluting with ethyl acetate/dichloromethane 3:97 to give 4-nitrobenzyl (7R,8S)-8-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]5-methylthio-9-oxo-1-azabicyclo[5.2.0]non-2,4-diene-2-carboxylate (776 mg, 47%).

reactant | 4-nitrobenzyl (7R,8S)-8-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]-5,9-dioxo-1-azabicyclo[5.2.0]non-2-ene-2-carboxylate | 3.07 mmol, 1.5 g | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@@H]1[C@H]2CC(CC=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C24H32N2O7Si
reactant | N,N-diisopropylethylamine | 6.45 mmol, 1.1 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoromethanesulfonic anhydride | 3.38 mmol, 0.57 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | N,N-diisopropylethylamine | 6.45 mmol, 1.1 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 4-nitrobenzyl (7R,8S)-8-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]5-methylthio-9-oxo-1-azabicyclo[5.2.0]non-2,4-diene-2-carboxylate | 776 mg, 47% | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@@H]1[C@H]2CC(=CC=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])SC | C25H34N2O6SSi
